US04002640
3.81 G. of 1-acetamido-2-nitro-4-n-propylthiobenzene in 35 ml. chloroform is treated at -20° to -15° C with a solution of 3.0 g. 40% peracetic acid in 3 ml. methanol. The mixture is allowed to warm to 20° C and stirred at 15°-25° C for four hours, then washed with sodium bisulfite solution and sodium bicarbonate solution. Removal of the chloroform leaves a gum which is treated on a steam bath, with 15 ml. 5N sodium hydroxide for one hour. The mixture is cooled, extracted with chloroform, separated and the solvent removed. The crude residue is recrystallized from benzene yielding 1-amino-2-nitro-4-n-propylsulfinylbenzene.

reactant | 1-acetamido-2-nitro-4-n-propylthiobenzene | C(C)(=O)NC1=C(C=C(C=C1)SCCC)[N+](=O)[O-] | C11H14N2O3S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 1-amino-2-nitro-4-n-propylsulfinylbenzene | NC1=C(C=C(C=C1)S(=O)CCC)[N+](=O)[O-] | C9H12N2O3S
